US05432177
Step 3: 1-(tert-Butoxycarbonyl)-4-(4-hydroxymethylphenyl)piperazine
Diisobutylaluminium hydride in toluene (1.5M, 15 ml, 22.5 mmol) was added dropwise to a solution of 1-(tert-butoxycarbonyl) -4-(4-methoxycarbonylphenyl)piperazine (2.90 g, 9.05 mmol) in THF (116 ml) at 0° C. The mixture was stirred at 0° C. for 2 hours then allowed to warm to room temperature. The solution was recooled to -4° C. and the reaction quenched by the addition of methanol (6 ml), water (3 ml) and finally 2M sodium hydroxide (3 ml). The mixture was allowed to warm to room temperature, the precipitated aluminium salts collected under suction and washed with dichloromethane. The filtrate was concentrated in vacuo and the residue purified by flash chromatography, eluting with dichloromethane/ethyl acetate, to give the title compound (2.30 g, 74%); δH (CDCl3) 1.48 (9H, s, C(CH3)3), 1.60 (1H, v br, CH2OH), 3.13 (4H, m, 2×piperazinyl CH2), 3.58 (4H, m, 2×piperazinyl CH2), 4.61 (2H, s, CH2OH), 6.92 (2H, m, ArH), and 7.29 (2H, m, ArH).

reactant | Diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 22.5 mmol, 1.5M, 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1-(tert-butoxycarbonyl) -4-(4-methoxycarbonylphenyl)piperazine | 9.05 mmol, 2.90 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(=O)OC | C17H24N2O4
solvent | THF | 116 ml | C1CCOC1 | C4H8O
product | 1-(tert-Butoxycarbonyl)-4-(4-hydroxymethylphenyl)piperazine | 2.30 g, 74% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)CO | C16H24N2O3
